* C:\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\LED driver draft.asc
* Generated by LTspice 26.0.1 for Windows.
D1 VCC N005 1N914
Q1 VCC N004 N010 0 2N3904
Q2 N005 N010 N011 0 2N2222
R1 N011 0 47
R2 N004 0 4.7k
R3 VCC N004 10k
VCC VCC 0 12
X§U1 Offset N001 V+ 0 N002 TLC081 ;§pnba In+)In-)V+)V-)OUT
X§U2 N003 Offset V+ 0 N004 TLC081 ;§pnba In+)In-)V+)V-)OUT
V2 V+ 0 5
V3 Offset 0 2
C1 N002 N001 1500p
R4 N003 N002 10k
R5 N004 N003 33k
R6 N001 N004 555555
X§U3 Offset N006 V+ 0 N007 TLC081 ;§pnba In+)In-)V+)V-)OUT
X§U4 N008 Offset V+ 0 N009 TLC081 ;§pnba In+)In-)V+)V-)OUT
C2 N007 N006 1500p
R7 N008 N007 10k
R8 N009 N008 33k
R9 N006 N009 555555
C3 N013 N012 1500p
R10 N014 N013 10k
R11 N015 N014 33k
R12 N012 N015 555555
X§U5 N014 Offset V+ 0 N015 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U6 Offset N012 V+ 0 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100ms
.include TLC081.mod
.include LM324.lib
.include LM358.mod
.include LM393A.txt
* .include LM358.txt
* Library below included based on ModelFile attribute of instance X§U5, X§U6 (C:\Users\realh\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
