* C:\Users\elias\Documents\EE310\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\LED driver draft.asc
* Generated by LTspice 24.1.9 for Windows.
D1 VCC N011 1N914
Q1 VCC Vsq N012 0 2N3904
Q2 N011 N012 N013 0 2N2222
R1 N013 0 47
R2 Vsq 0 4.7k
R3 VCC Vsq 10k
VCC VCC 0 12
X§U1 Offset N001 V+ 0 N002 TLC081
X§U2 N003 Offset V+ 0 Vsq TLC081
V2 V+ 0 5
V3 Offset 0 2
C1 N002 N001 600p
R4 N003 N002 10k
R5 Vsq N003 33k
R6 N001 Vsq 555555
X§U3 Offset N007 V+ 0 N008 TLC081
X§U4 N009 Offset V+ 0 N010 TLC081
C2 N008 N007 1500p
R7 N009 N008 10k
R8 N010 N009 33k
R9 N007 N010 555555
C3 N015 N014 1500p
R10 N016 N015 10k
R11 N017 N016 33k
R12 N014 N017 555555
X§U5 N016 Offset V+ 0 N017 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U6 Offset N014 V+ 0 N015 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
M1 N005 N006 0 0 IRFZ44N
D2 N004 N005 1N914
R13 V+ N004 47
C4 V+ 0 100n
R14 N006 Vsq 100
.model D D
.lib C:\Users\elias\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\elias\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\elias\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100ms
.include TLC081.mod
.include LM324.lib
.include LM358.mod
.include LM393A.txt
* .include LM358.txt
* i think that the square wave generator is mostly fine maybe just tweaks if we want different frequencys
* change in voltage is changed to be 1.5V to try fit in the characteristics of the TLC082 better(0.18 - 4.3)V
* Darlton pair
.include irlz44n.txt
.lib UniversalOpAmp2.lib
.backanno
.end
